US05677346
reacting said 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate sequentially with a carbonochloridate and methanol to produce 4-(ethylamino)-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate.

reactant | 4-[N-ethyl-(4-methoxyphenyl)methylamino]-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCN(CC)CC1=CC=C(C=C1)OC)(C1=CC=CC=C1)O | C28H35NO4
reactant | carbonochloridate | C([O-])(=O)Cl
solvent | methanol | CO | CH4O
product | 4-(ethylamino)-2-butynyl α-cyclohexyl-α-hydroxybenzeneacetate | C1(CCCCC1)C(C(=O)OCC#CCNCC)(C1=CC=CC=C1)O | C20H27NO3
